US05883049
Sodium hydride (0.06 g, 2.4 mmol) was put in to a flask, to which 1,4-dioxane (5 mL) and ethyl glycolate (0.12 mL, 1.32 mmol) was added with stirring under cooling in an ice-water bath after replacing the inside of flask throughly with argon gas, and the mixture was stirred for 15 minutes at the ambient temperature. Then, 2-(2,4-difluoro-5-nitrophenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione (0.37 g, 1. mmol) was added to the mixture at the same temperature. The reaction mixture was wormed up to room temperature and stirred for 3 hours, and further stirred for 13 hours at 80° C. 1N Hydrochloric acid (10 mL) and ethyl acetate (10 mL) were added to the resulting mixture and the organic layer was separated. The aqueous layer was extracted with ethyl acetate (10 mL ×2 times). The organic layer combined was washed with a saturated sodium bicarbonate (20 mL) and a saturated sodium chloride solution (20 mL), and dried over anhydrous magnesium sulfate. After removal of magnesium sulfate by filtration, the filtrate was evaporated to give crude product, which was purified by silica gel column (Wakogel C-200, ethyl acetate/hexane=1/2) to obtain a white solid of 2-(4-ethoxycarbonylmethoxy-2-fluoro-5-nitrophenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione (0.23 g, yield:48.9%).

reactant | Sodium hydride | 2.4 mmol, 0.06 g | [H-].[Na+]
reactant | ethyl glycolate | 1.32 mmol, 0.12 mL | C(CO)(=O)OCC | C4H8O3
reactant | 2-(2,4-difluoro-5-nitrophenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione | 0.37 g | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])N1C(N2C(=CCCC2)C1=O)=O | C13H9F2N3O4
reactant | Hydrochloric acid | 1N, 10 mL | Cl | ClH
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-(4-ethoxycarbonylmethoxy-2-fluoro-5-nitrophenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione | 0.23 g, yield:48.9% | C(C)OC(=O)COC1=CC(=C(C=C1[N+](=O)[O-])N1C(N2C(=CCCC2)C1=O)=O)F | C17H16FN3O7
